US09034922B2
2.88 g (15.9 mmol) of 4-methylsulfonylphenol was added to and dissolved in a dimethylsulfoxide solution (30 mL) of 2.12 g (15.9 mmol) of 1-bromo-2-butyne, and then 2.64 g (19.1 mmol) of potassium carbonate was added thereto. After stirred for 6 hours, brine was added thereto and extracted with ethylacetate. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. 3.39 g (15.11 mmol) of 1-but-2-ynyloxy-4-methanesulfonylbenzene (V-1) was obtained as a roughly-purified product (yield 95%). Its physical properties are shown below.

reactant | 4-methylsulfonylphenol | 15.9 mmol, 2.88 g | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | 1-bromo-2-butyne | 15.9 mmol, 2.12 g | BrCC#CC | C4H5Br
reactant | potassium carbonate | 19.1 mmol, 2.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 30 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 1-but-2-ynyloxy-4-methanesulfonylbenzene | 15.11 mmol, 3.39 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C | C11H12O3S
